US20010006969A1
7-Bromothieno[3,2-d]pyrimidine-2,4(1H,3H)-dione
To 250 ml of a solution of 7.31 g (52.2 mmol) of thieno[3,2-d]pyrimidine-2,4(1H,3H)-dione in acetic acid was added 25.0 g (156 mmol) of bromine at room temperature, followed by heating at 80° C. for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. Ice water was added to the residue, followed by filtering out crystals thus precipitated to give 7.24 g (yield: 56.2%) of the title compound.

reactant | thieno[3,2-d]pyrimidine-2,4(1H,3H)-dione | 52.2 mmol, 7.31 g | N1C(NC(C2=C1C=CS2)=O)=O | C6H4N2O2S
reactant | bromine | 156 mmol, 25.0 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Bromothieno[3,2-d]pyrimidine-2,4(1H,3H)-dione | 7.24 g, yield: 56.2% | BrC1=CSC2=C1NC(NC2=O)=O | C6H3BrN2O2S
